US08461158B2
Reaction of tert-butyl 4-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl][3-(dimethylamino)propyl]amino}-1-piperidine-carboxylate from the last step with TFA in CH2Cl2 gave N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-(4-piperidinyl)-1,3-propanediamine in 99% yield: 1H NMR (DMSO-d6) (rotamers) δ 7.96 and 7.93 (d, J=8.3 Hz, 1H), 7.77 and 7.70 (t, JHF=53.1, 53.0 Hz, 1H), 7.40-7.35 (m, 1H), 6.95 (d, J=8.1 Hz, 1H), 4.63-4.56 and 4.50-4.43 (2m, 1H), 3.98 (s, 3H), 3.82-3.77 (m, 4H), 3.70 (br, 4H), 3.55-3.45 (m, 2H), 3.08-3.05 (m, 2H), 2.59-2.52 (m, 3H), 2.28 (t, J=6.8 Hz, 2H), 2.14 and 2.12 (2s, 6H), 1.76-1.61 (m, 6H).

reactant | tert-butyl 4-{[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl][3-(dimethylamino)propyl]amino}-1-piperidine-carboxylate | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CCN(CC1)C(=O)OC(C)(C)C)CCCN(C)C)C=CC=C2OC)F | C31H45F2N9O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N1-[4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-1,3,5-triazin-2-yl]-N3,N3-dimethyl-N1-(4-piperidinyl)-1,3-propanediamine | 99% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(CCCN(C)C)C1CCNCC1)C=CC=C2OC)F | C26H37F2N9O2
